** sch_path: /home/wing/Apps/pqwave.git/tests/bridge/bridge.sch
**.subckt bridge
R1 r1 r2 1k
R2 r2 0 1k
D1 AC_p r1 D1N4148 area=1
D2 AC_n r1 D1N4148 area=1
D3 0 AC_p D1N4148 area=1
D4 0 AC_n D1N4148 area=1
C1 r1 0 47uF
V1 AC_p AC_n SIN(0 100 100)
**** begin user architecture code


.control
tran 1e-05 0.04 0
write bridge.raw v(ac_p) v(ac_n) v(r1) v(r2)
gnuplot bridge v(ac_p,ac_n) v(r1) v(r2)
.endc


**** end user architecture code
**.ends
**** begin user architecture code

.model D1N4148 D(Is=2.55e-9 N=1.75 Rs=42e-3 Cj0=42.4e-12 Vj=0.75 M=0.333 Fc=0.5 Tt=4.32e-6 Bv=800 Ibv=80e-6 Af=1 Kf=0)

**** end user architecture code
.end
